US08748624B2
STEP B: ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (89 mg, 0.42 mmol) was added to a DCE solution (1 mL) of ethyl 3-(5-(2-formyl-4-methoxyphenyl)picolinamido)propanoate (100 mg, 0.28 mmol), 2′,4′-dichloro-[1,1′-biphenyl]-4-amine (100 mg, 0.42 mmol), and AcOH (0.02 mL, 0.28 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 0.42 mmol, 89 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(2-formyl-4-methoxyphenyl)picolinamido)propanoate | 0.28 mmol, 100 mg | C(=O)C1=C(C=CC(=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H20N2O5
reactant | 2′,4′-dichloro-[1,1′-biphenyl]-4-amine | 0.42 mmol, 100 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)N | C12H9Cl2N
reactant | AcOH | 0.28 mmol, 0.02 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoate | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NCC1=C(C=CC(=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C31H29Cl2N3O4
